US04650864
There was added 5.0 g (37.3 mmoles) of 5-deoxy-L-(+)-arabinose obtained in Example to 80 ml of methanol and the mixture was stirred to give a clear solution. With stirring there was added dropwise 4.5 g (42 mmoles) of phenylhydrazine to the obtained mixture and thereto further a drop of glacial acetic acid was added. Thus obtained yellow solution was allowed to stand for 1 hour at room temperature and then the solution was evaporated under a condition close to vacuum as far as possible to give a thick viscous residue. After the residue was washed with 30 ml of ether twice, the residue was dissolved in 150 ml of ethyl acetate. The thus obtained solution was washed with about 40 ml of water twice, the organic layer was dried with sodium sulfate and the solvent was evaporated under vacuum. There remained a pale yellow skin-like solid on the bottom of the flask. The solid was washed with 30 ml of ether twice (for half an hour per each washing) and dried to give 8.0 g of 5-deoxy-L-arabinose-phenylhydrazone (yield: 96%).

reactant | 5-deoxy-L-(+)-arabinose | 37.3 mmoles, 5.0 g | O=C[C@H](O)[C@@H](O)[C@@H](O)C | C5H10O4
reactant | methanol | 80 ml | CO | CH4O
reactant | phenylhydrazine | 42 mmoles, 4.5 g | C1(=CC=CC=C1)NN | C6H8N2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-deoxy-L-arabinose-phenylhydrazone | 8.0 g, yield: 96% | C1(=CC=CC=C1)NN=C[C@H](O)[C@@H](O)[C@@H](O)C | C11H16N2O3
